US20010012877A1
A stirred suspension of 1-cyclopentene carboxylic acid (11.2 g, 100 mmol) and cyclopentene (13.6 g, 200 mmol) was added slowly to stirring polyphosphoric acid (Aldrich, 300 g) at 60° C. in a 250 mL flask. The reaction mixture was stirred at 70-80° C. for 4 hours under nitrogen. The dark brown reaction mixture was cooled to 30° C. and poured on 300 g of ice and vigorously stirred in a cooling bath. The brown mass was then neutralized with a saturated solution of ammonium sulfate (200 ml). The resulting mixture was then extracted with Et2O (5×200 mL). The combined organic layers were washed successively with water, saturated sodium bicarbonate solution and water. The washed organic extract was then dried over anhydrous MgSO4 and concentrated in vacuo. The residue was distilled at 130-135° C. at 4 mmHg to yield 3.5 g, 25%, about 90% purity. This product was chromatographed on silica gel using hexane and ethyl acetate as eluent to obtain pure cis-tricyclo [6.3.0.03,7] undec-1(8)-en-2-one. 1H-NMR (CDCl3): δ 3.2 (m, 1 H), 3.1 (m, 1 H), 2.5 (m, 2 H), 2.4 (m, 4 H), 1.9 (m, 1 H), 1.6 (m, 4 H), 1.3 (m, 1 H).

reactant | 1-cyclopentene carboxylic acid | 100 mmol, 11.2 g | C1(=CCCC1)C(=O)O | C6H8O2
reactant | cyclopentene | 200 mmol, 13.6 g | C1=CCCC1 | C5H8
solvent | ammonium sulfate | 200 ml | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
product | cis-tricyclo [6.3.0.03,7] undec-1(8)-en-2-one | C1=2C([C@@H]3CCC[C@@H]3C2CCC1)=O | C11H14O
